US06008230
To a 0.9M solution of methylmagnesium bromide in tetrahydrofuran (1.3 ml) was added dropwise a solution of 8-(2,6-dichlorobenzoylamino)-3-(N-methoxy-N-methylcarbamoyl)-4-morpholinoquinoline (107 mg) in dry tetrahydrofuran (1 ml) with cooling in an ice bath. The mixture was stirred at the same temperature for 1 hour, at ambient temperature for 1 hour, at 50° C. for 2 hours. The mixture was partitioned between ethyl acetate and saturated ammonium chloride aqueous solution. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel. The obtained oil was crystallized from ethanol to give 3-acetyl-8-(2,6-dichlorobenzoylamino)-4-morpholinoquinoline (19 mg) as a white crystal.

reactant | methylmagnesium bromide | C[Mg]Br
reactant | 8-(2,6-dichlorobenzoylamino)-3-(N-methoxy-N-methylcarbamoyl)-4-morpholinoquinoline | 107 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)C(N(C)OC)=O)N2CCOCC2)C(=CC=C1)Cl | C23H22Cl2N4O4
solvent | tetrahydrofuran | 1.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-acetyl-8-(2,6-dichlorobenzoylamino)-4-morpholinoquinoline | 19 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1N1CCOCC1)NC(C1=C(C=CC=C1Cl)Cl)=O | C22H19Cl2N3O3
